US05498726
To a heterogeneous mixture of physostigmine salicylate (450 g) in dichloromethane (1.35L) and water (1.35L) was added Na2CO3 (150 g) over 0.5-1.0 hour while maintaining 18°-20° C. During the addition the pH of the aqueous phase increases from 5.5 to 9.5. After stirring at 18°-20° C. for 0.5 hour the aqueous phase was separated and extracted with dichloromethane (2×112 mL). The combined dichloromethane phase was treated again with water (500 mL) and Na2CO3 (23 g) at 18°-20° C. and stiffed for 0.5 hour. The aqueous phase was separated, extracted with dichloromethane (2×112 mL) and the combined dichloromethane phases were washed with water (450 mL), dried over K2CO3 (20 g) and concentrated under reduce pressure below 30° C. to give 302 g of crystalline physostigmine free base (100.8% of theory, 99.0% HPLC purity).

reactant | physostigmine salicylate | 450 g | C[C@@]12CCN([C@@H]1N(C3=C2C=C(C=C3)OC(=O)NC)C)C.C=1C=CC(=C(C1)C(=O)O)O
reactant | Na2CO3 | 150 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 1.35L | ClCCl | CH2Cl2
solvent | water | 1.35L | O | H2O
product | physostigmine | 302 g | C[C@@]12CCN([C@@H]1N(C3=C2C=C(C=C3)OC(=O)NC)C)C | C15H21N3O2
